US04455422
2.7 Grams of 6-(1-oxo-4-chlorobutyl)-3,4-dihydrocarbostyril and 1.5 g of sodium iodide were mixed in 30 ml of dimethyl sulfoxide and the mixture was stirred at 50° C. for 2 hours. Then to the reaction mixture were added 2.0 g of 4-(3,4-methylenedioxyphenyl)-piperazine and 3 g of DBU and the reaction mixture was stirred at 70°-80° C. for 5 hours. After the reaction was completed, the reaction mixture was poured into 10 ml of 2%-sodium hydrogencarbonate and the organic layer was extracted with chloroform. The chloroform layer was washed with water, dried and chloroform was removed by distillation. To the residue thus obtained were added 50 ml of methanol and 5 ml of concentrated hydrochloric acid and the mixture was concentrated under a reduced pressure to dryness. The residue thus obtained was crystallized by adding ethanol-acetone to obtain crude crystals, and the crude crystals were recrystallized from ethanol-water. 2.1 Grams of 6-{1-oxo-4-(3,4-methylenedioxy-phenyl)-1-piperazinyl]butyl}-3,4-dihydrocarbostyril monohydrochloride in colorless powdery crystals were obtained.

reactant | 6-(1-oxo-4-chlorobutyl)-3,4-dihydrocarbostyril | O=C(CCCCl)C=1C=C2CCC(NC2=CC1)=O | C13H14ClNO2
reactant | sodium iodide | 1.5 g | [I-].[Na+]
reactant | 4-(3,4-methylenedioxyphenyl)-piperazine | 2.0 g | C1OC=2C=C(C=CC2O1)N1CCNCC1 | C11H14N2O2
reactant | DBU | 3 g | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | hydrochloric acid | 5 ml | Cl | ClH
solvent | dimethyl sulfoxide | 30 ml | CS(=O)C | C2H6OS
solvent | methanol | 50 ml | CO | CH4O
product | 3,4-dihydrocarbostyril monohydrochloride | Cl.N1C(=O)CCC2=CC=CC=C12 | InChI=1S/C9H9NO.ClH/c11-9-6-5-7-3-1-2-4-8(7)10-9;/h1-4H,5-6H2,(H,10,11);1H
